Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I just am so lonely."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with history of alcohol use disorder and
depression who presents to the ED with passive suicidal ideation
in the setting of a recent relapse and housing stressors.

He reports that he has been living at a sober house, but he
relapsed on alcohol yesterday.  He said that he was having
thoughts about being stuck and alone at the sober house.  He
identifies separation from family and his recent retirement from
a mental health counselor position as triggers for his relapse. 
He reported that he drank 1 pint of alcohol yesterday, but has
not had anything to drink since last night. 

He notes that the depression was more long-standing than this
relax though.  He said that he has had "stronger" suicidal
thoughts in the past, but still worries about them.  He says 
that
this time the thoughts are present, but there is not a current
plan.  He does think that the suicidal ideation would worsen if
he did not get the help that he needs, which he feels that he
needs an inpatient hospitalization. He said that he is currently
homeless, which is a major stressor for him. He denies any
history of suicide attempts. He said that he has had suicidal
ideation since his evicted last ___.  

He said that the owner of the ___ house would welcome him back
if he sought out mental health treatment and detox. He denies 
any
symptoms of withdrawal other than some "sluggishness" like a
"hangover." 

Endorses many neurovegetative symptoms of depression, including
sleep difficulties, decreased energy, anhedonia, hopelessness,
and suicidal ideation. He notes "flashbacks" to witnessing
someone have a seizure. Reports that he is impulsive and
grandiose at times, but didn't have any other symptoms of mania. 

Denies AVH.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: Two prior dual diagnosis units, ___ treatment (last in ___. Attended a partial program
previously.
Current treaters and treatment: Treaters at ___ -
Outpatient therapist: ___.  No current psychiatrist.
Medication and ECT trials: Citalopram, previously on bupropion
(extremely sedated)
Self-injury: No history of suicide attempts
Harm to others: No history of violence toward others
Access to weapons: No access to weapons

PAST MEDICAL HISTORY:
PCP: Dr. ___)
Hypertension
Gouty Arthritis
Depression   
 
Social History:
SUBSTANCE ABUSE HISTORY:
- Alcohol Use: First started drinking at ___ years ago. Reports 
he
has had monthly periods of sobriety with relapses on payday.  
Has
had 7 months in the past, though has drank very little in the
last ___ years. Denies any seizures, ICU stays, DTs
- Tobacco History: Denies
- Illicit Substances: Denies. Past use of cocaine, crack in the
1990s. Marijuana in the 1970s.

FORENSIC HISTORY:
Arrests: 1 prior DUI. No probation

SOCIAL HISTORY:
-Born/Raised: From ___. Lived in ___ for the last 20+
years.
-Childhood: He has two brothers. 
-Education: Graduated high school and took some adult education
classes.
-Employed as a ___, but "retired" in ___. 
He
then worked in a ___ until ___.
-Currently recieves disability
-Housing: Recently kicked out of sober house
-Relationships/Children: 2 daughters, 1 son.  He says he is in
touch on the phone regularly. 
-Religiousity/Spirituality: "Brought up religiously," but 
doesn't
practice.
-Trauma: Sexually abused as a child by a distant cousin and
brother's friend. 
#NAME?
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Mother: ___ suicide by "putting her head in the stove."
Oldest brother still drinks

 
Physical Exam:
EXAM: 
*VS: 98.0 67 163/83 17 100% 

Neurological:  
 *station and gait: Deferred
 *tone and strength: Grossly normal.

Cognition: 
 *Wakefulness/alertness: Alert and oriented
 *Attention (digit span, MOYB): Attends to DOWB
 *Memory: WNL
 *Fund of knowledge: Presidents to ___ (thought ___ was
next)
 *Calculations: $1.75 = 7Q 
 *Abstraction: Grossly normal
 *Speech: Regular rate, rhythm, tone, and prosody
 *Language: ___ fluent
 
Mental Status:
 *Appearance: Elderly man who appears his stated age, dressed in
a hospital gown, below average hygiene.
 Behavior: Calm, cooperative, good eye contact
 *Mood and Affect: "depressed" / Dysphoric
 *Thought process / *associations: Goal-directed. Slight
circumstantiality
 *Thought Content: Passive SI. Denies HI, AVH. 
 *Judgment and Insight: Limited / Limited

 
Pertinent Results:
___ 08:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:50PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 08:50PM URINE  HYALINE-1*
___ 08:50PM URINE  MUCOUS-RARE
___ 07:36PM   GLUCOSE-120* UREA N-18 CREAT-1.0 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-28 ANION GAP-13
___ 07:36PM   estGFR-Using this
___ 07:36PM   ALT(SGPT)-29 AST(SGOT)-23 ALK PHOS-131* TOT 
BILI-0.2
___ 07:36PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:36PM   WBC-11.4* RBC-4.42* HGB-13.5* HCT-40.8 MCV-92 
MCH-30.5 MCHC-33.1 RDW-14.6 RDWSD-49.1*
___ 07:36PM   NEUTS-67.3 ___ MONOS-5.2 EOS-2.2 
BASOS-0.6 IM ___ AbsNeut-7.66* AbsLymp-2.72 AbsMono-0.59 
AbsEos-0.25 AbsBaso-0.07
___ 07:36PM   PLT COUNT-279
___ 07:36PM   ___ PTT-29.9 ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. He was also placed on 15 minute checks 
status on admission, our lowest level check status, and remained 
on that level of observation throughout while being unit 
restricted.

2. PSYCHIATRIC:
#) Alcohol use disorder: Upon presentation to the unit, patient 
stated that he had recently relapsed on alcohol (drinking about 
1 pint of vodka a few days prior) after being sober for several 
months, in the context of difficulties at his sober house with 
subsequent move to ___, and financial difficulties. He did not 
experience withdrawal symptoms, likely due to short course of 
his relapse. His CBC was within normal limits, but he did 
receive thiamine and folate daily. He was amenable to taking 
naltrexone 50mg PO QD, for alcohol dependence. He did not 
experience any side effects. On discharge, he states that he 
plans to return to his sober house (confirmed with staff), 
continue taking naltrexone, and return to his daily AA meetings 
and sponsor.

#) Unspecified depressive disorder: Upon arrival to the unit, 
patient reported worsening depressed mood, difficulty sleeping 
(about 6 hours per night), worthlessness, hopelessness, and 
amotivation. He attributed these feelings to his alcohol 
relapse, the cold weather, and recent difficulties obtaining 
food stamps and other services. He was amenable to trying 
mirtazapine to target norepinephrine in light of his lethargy. 
His home citalopram 40mg PO QD was decreased to 20mg PO QD, and 
he was started on mirtazapine QHS. However, he started to have 
nightmares, and requested that he be switched back to home 
citalopram. Additionally, he was started on prazosin 1mg PO BID 
for nightmares, with good effect. With time, the patient became 
more visible and participatory in the milieu and in groups, and 
mood improved. On discharge, he states mood is "good" and he 
denies any suicidal thought, intent, or plan. He will be 
discharged to his sober house on citalopram 40mg PO QD and 
prazosin 2mg PO QHS.

3. MEDICAL
#)Hypertension: Patient arrived to the unit with blood pressure 
stably elevated at 150s/80s-90s and heart rate ___ on his home 
regimen. He did have a medical trigger after awakening from a 
nightmare during a nap, with blood pressure elevated to 
170s/90s, with HR ___. EKG was performed and was within normal 
limits. Blood pressure returned to his baseline. Blood pressure 
did improve with initiation of prazosin 1mg PO BID for 
nightmares. He will follow up with his PCP.

#) Wound care: Patient arrived to the ED with left forearm 
lesion. It was treated with antibacterial ointment and kept 
clean, dry, and elevated. Resolved.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient_x0092_s primary team met with him daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient's sober house was contacted, and confirmed that the 
patient can return pending medical clearance.

#) INTERVENTIONS
- Medications: citalopram 40mg PO QD, prazosin 2mg PO QHS, 
naltrexone 50mg PO QD
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: patient to return to his sober 
house and to day program

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based on worsening depressive 
symptoms and intermittent suicidal ideation. Their static 
factors noted at that time include chronic mental illness, 
history of substance abuse, recent discharge from an inpatient 
psychiatric unit, male gender, Caucasian race, age, marital 
status, and chronic medical illness. He also had several 
modifiable risk factors, including suicidal ideation, depressed 
mood, ongoing substance use, and no outpatient providers. We 
addressed these risk factors by continuing his citalopram, 
starting him on prazosin for nightmares, starting him on 
naltrexone for alcohol dependence, and connecting him with 
outpatient treaters. Finally, the patient is being discharged 
with many protective risk factors, including help-seeking 
nature, connection with AA, outpatient treaters, and partial 
hospital program.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. Our Prognosis 
of this patient overall is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Amlodipine 5 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Lisinopril 40 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Citalopram 40 mg PO DAILY 
RX *citalopram 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
6. Furosemide 20 mg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Simvastatin 20 mg PO QPM 
9. Thiamine 100 mg PO DAILY 
10. Prazosin 2 mg PO QHS 
RX *prazosin 2 mg 1 capsule(s) by mouth at bedtime Disp #*60 
Capsule Refills:*0
11. Naltrexone 50 mg PO DAILY 
RX *naltrexone 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
Unspecified depressive disorder

 
Discharge Condition:
   Exam:
  *VS:  BP: 107/58 HR: 98 temp: 97.3 resp: 16 O2: 100% RA
  Neurological:
    *station and gait: within normal limits
    *tone and strength: within normal limits
  *Appearance: Overweigh Caucasian man appearing stated age,
appropriate eye contact
  Behavior: pleasant, cooperative with interview
  *Mood and Affect: 'good,' affect is euthymic
  *Thought process: linear, goal-directed, though rambles at
times
  *Thought Content:denies SI/HI/AVH, no overt delusions/paranoia
  *Judgment and Insight: fair/fair
  Cognition:
    *Attention, *orientation, and executive function: AAOx3
    *Memory: grossly intact
    *Fund of knowledge: average
    *Speech: normal rate/volume/prosody
    *Language: fluent ___
    * MOCA score ___: 26 (normal)

 
Discharge Instructions:
Dear Mr. ___,

As you know, you were recently admitted to the ___ Psychiatry 
Service for worsening depression symptoms in the setting of your 
alcohol use disorder. While you were here, we treated your 
alcohol withdrawal symptoms and depression with several 
medications. 

Please follow up as indicated below. Of note, you will be going 
to ___ this ___ at 9 AM! Also, 
please note that you must call your psychiatrist, Dr. ___ 
___ (number provided below) 1 day prior to your appointment 
to confirm. 

It was a pleasure taking part in your care!
-Your ___ Psychiatry Team 
 
Followup Instructions:
___